US09353108B2
G) Dimethyl 2-ethyl-6-hydroxypyridine-3,5-dicarboxylate
A mixture of dimethyl 2-(benzyloxy)-6-ethylpyridine-3,5-dicarboxylate (2.37 g), 10% palladium carbon (containing 55% water, 2.00 g), THF (20 mL), and ethanol (20 mL) was stirred at room temperature for 1 hour in a hydrogen atmosphere. The catalyst was filtered off, and then, the obtained filtrate was concentrated under reduced pressure. The obtained solid was washed with ethyl acetate to obtain the title compound (1.25 g).

reactant | dimethyl 2-(benzyloxy)-6-ethylpyridine-3,5-dicarboxylate | 2.37 g | C(C1=CC=CC=C1)OC1=NC(=C(C=C1C(=O)OC)C(=O)OC)CC | C18H19NO5
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 2.00 g | [C].[Pd]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Dimethyl 2-ethyl-6-hydroxypyridine-3,5-dicarboxylate | 1.25 g | C(C)C1=NC(=C(C=C1C(=O)OC)C(=O)OC)O | C11H13NO5
